US08017626B2
Method 8: tert-Butyl 4-hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate
To a solution of tert-butyl malonate (5 ml, 20 mmol) in 1,4-Dioxane (70 ml) was added 60% Sodium hydride (0.8 g, 35 mmol) in portions. The mixture was stirred at room temperature for 45 min. then a solution of 6-iodo-1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione (6.1 g, 20 mmol) in 1,4-Dioxane (40 ml) was added. The mixture was placed in an oil bath at 60° C. and the bath temp was raised to 120° C. over a period of 20 min after which stirring was continued for 90 min. The solvent was removed on a roto-evaporator and cold water (300 ml) was added to the residue. The mixture was washed with DCM (100 ml) then the aqueous phase was acidified with 2N HCl. The organic layer was extracted into DCM (2×100 ml) and after drying over MgSO4 the solvent was removed on a roto-evaporator. Yield=4.1 g.

reactant | tert-butyl malonate | 20 mmol, 5 ml | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | Sodium hydride | 35 mmol, 0.8 g | [H-].[Na+]
reactant | 6-iodo-1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | 20 mmol, 6.1 g | IC1=CC2=C(N(C(OC2=O)=O)C)C=C1 | C9H6INO3
solvent | 1,4-Dioxane | 70 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-Dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | tert-Butyl 4-hydroxy-6-iodo-1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate | OC1=C(C(N(C2=CC=C(C=C12)I)C)=O)C(=O)OC(C)(C)C | C15H16INO4
